US07465831B2
In a 25 ml reactor equipped with a condenser, thermometer, and mechanical stirrer loaded at room temperature levalbuterol HCl (1 g) and absolute ethanol (19 ml). The solution was warmed to 45° C. to 50° C. to obtain a solution. The solution was cooled to room temperature and after MTBE (9.5 ml) was added. The solution was stirred at room temperature for 1 hour to obtain a suspension. The solid was collected by filtration and washed with MTBE (3 ml) to obtain levalbuterol Polymorph A (0.6 g).

reactant | levalbuterol HCl | 1 g | CC(C)(C)NC[C@@H](C=1C=CC(=C(C1)CO)O)O.Cl
reactant | ethanol | 19 ml | C(C)O | C2H6O
solvent | MTBE | 9.5 ml | CC(C)(C)OC | C5H12O
product | levalbuterol | CC(C)(C)NC[C@@H](C=1C=CC(=C(C1)CO)O)O | C13H21NO3
